US07196085B2
O-Benzotriazol-1-yl-N,N,N′N′-tetramethyluronium tetrafluoroborate (0.087 g, 0.27 mmol) and diisopropylethylamine (0.079 ml, 0.46 mmol) were added sequentially at ambient temperature to a stirred solution of 4-[2-fluoro-5-(4-oxo-3,4-dihydrophthalazin-1-ylmethyl)phenylcarbamoyl]butyric acid (0.08 g, 0.21 mmol) in dimethylformamide (2 ml), the mixture was stirred at ambient temperature for 50 hours, then it was added dropwise to ice-cold water (10 ml). The resulting solid was collected by filtration and dried in vacuo to give 1-[2-Fluoro-5-(4-oxo-3,4-dihydrophthalazin-1-ylmethyl)phenyl]piperidine-2,6-dione (0.05 g) as a white solid, m.pt. 259–263° C.; 250 MHz 1H-nmr (d6-DMSO) δ (ppm): 1.8–2.1 (m, 2H) (—CH2CH2CH2—), 2.7–2.9 (m, 4H) (—CH2CH2CH2—) 4.35 (s, 2H) (ArCH2—), 7.1–7.35 (m, 2H) (2×ArH), 7.4–7.5 (m, 1H) (ArH), 7.8–8.05 (m, 3H) (3×ArH), 8.3 (d, 1H) (ArH), 12.65 (s, 1H) (CONH); m/z (M+H)+ 366, 100% purity.

reactant | diisopropylethylamine | 0.46 mmol, 0.079 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-[2-fluoro-5-(4-oxo-3,4-dihydrophthalazin-1-ylmethyl)phenylcarbamoyl]butyric acid | 0.21 mmol, 0.08 g | FC1=C(C=C(C=C1)CC1=NNC(C2=CC=CC=C12)=O)NC(=O)CCCC(=O)O | C20H18FN3O4
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 1-[2-Fluoro-5-(4-oxo-3,4-dihydrophthalazin-1-ylmethyl)phenyl]piperidine-2,6-dione | 0.05 g | FC1=C(C=C(C=C1)CC1=NNC(C2=CC=CC=C12)=O)N1C(CCCC1=O)=O | C20H16FN3O3
